US04352752
According to the same procedure as in Example 1, 1-(1-methoxycarbonyl-2-methylpropyl)-3-acetylamino-4-phenylazetidin-2-one (230 mg.) was subjected to hydrogenolysis at 50° C. in methanol (20 ml.) in the presence of a 10% Pd-C (310 mg.) under a hydrogen pressure of one atmosphere. The reaction was completed in 18 hours. The same after-treatment as in Example 1 was followed to give methyl ester of N-acetylphenylalanylvaline (220 mg., yield: 95.5%).

reactant | 1-(1-methoxycarbonyl-2-methylpropyl)-3-acetylamino-4-phenylazetidin-2-one | 230 mg | COC(=O)C(C(C)C)N1C(C(C1C1=CC=CC=C1)NC(C)=O)=O | C17H22N2O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd-C | 310 mg | [Pd] | Pd
product | N-acetylphenylalanylvaline | 220 mg, yield: 95.5% | C(C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)O | C16H22N2O4
